US07022851B2
4-{[4-N-(Benzhydryloxycarbonyl)-cytosin-1-yl]-acetyl}-1-(2-nitro-benzenesulfonyl)-piperazin-2-one
To a solution of N-{[4-N-(benzhydryloxycarbonyl)-cytosin-1-yl]-acetyl}-N-[2-(2-nitro-benzenesulfonylamino)-ethyl]-glycine (1.20 g, 1.8 mmol) in THF (24 mL) was added N-methylmorpholine (0.6 mL, 5.42 mmol) and then the mixture was cooled to −20° C. After stirring for 5 min at the same temperature, isobutyl chloroformate (0.30 mL, 2.31 mmol) was added to the reaction mixture. The resulting mixture was slowly warmed to 0° C. for 1 h. Then the reaction mixture was evaporated in vacuo and dissolved in a mixture of ethyl acetate and acetonitrile. The solution was washed with saturated NaCl solution and dried over sodium sulfate and filtered. The filtrate was evaporated in vacuo and triturated with methanol to precipitate solid. The solid was filtered off, washed with methanol, and dried in vacuo to give the titled compound 0.9 g (77%). 1H-NMR (500 MHz; DMSO-d6) δ 8.35 (t, 1H), 8.12˜7.95 (m, 3H), 7.90 (d, 0.6H), 7.84 (d, 0.4H), 7.48˜7.28 (m, 10H), 6.95 (d, 0.6H), 6.94 (d, 0.4H), 6.79 (s, 1H), 4.82 (s, 1.2H), 4.73 (s, 0.8H), 4.45 (s, 0.8H), 4.27 (s, 1.2H), 4.10˜3.95 (m, 2.4H), 3.95˜3.80 (m, 1.6H).

reactant | N-{[4-N-(benzhydryloxycarbonyl)-cytosin-1-yl]-acetyl}-N-[2-(2-nitro-benzenesulfonylamino)-ethyl]-glycine | 1.8 mmol, 1.20 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)NC1=NC(N(C=C1)CC(=O)N(CC(=O)O)CCNS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])=O | C30H28N6O10S
reactant | N-methylmorpholine | 5.42 mmol, 0.6 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 2.31 mmol, 0.30 mL | ClC(=O)OCC(C)C | C5H9ClO2
solvent | THF | 24 mL | C1CCOC1 | C4H8O
product | 4-{[4-N-(Benzhydryloxycarbonyl)-cytosin-1-yl]-acetyl}-1-(2-nitro-benzenesulfonyl)-piperazin-2-one | 0.9 g, 77% | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)NC1=NC(N(C=C1)CC(=O)N1CC(N(CC1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])=O)=O | C30H26N6O9S
